US05202456
3-farnesyloxypropionic acid
All-trans-farnesol was reacted with methyl acrylate in the presence of one equivalent of 0.1 equivalent of potassium-tert butoxide/tetrahydorfuran/t-butanol for three hours at room temperature. The solution was acidified with 0.1N HCl, evaporated to dryness, and purified by thin layer chromatography on silica. The free acid was prepared by treatment of the ester with potassium hydroxide in methanol. The product showed the anticipated nmr and infrared spectra.

reactant | All-trans-farnesol | CC(=CCC/C(=C/CC/C(=C/CO)/C)/C)C | C15H26O
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | potassium-tert butoxide tetrahydorfuran t-butanol | one equivalent | CC(C)([O-])C.[K+].O1CCCC1.C(C)(C)(C)O
reactant | HCl | 0.1N | Cl | ClH
product | 3-farnesyloxypropionic acid | C(C=C(C)CCC=C(C)CCC=C(C)C)OCCC(=O)O | C18H30O3
